US04614827
Starting with dimethylaminoethyl methacrylate, methyl chloride, water and stabilizer, an aqueous trimethylammonium ethyl methacrylate chloride solution with a solids content of approximately 80% was obtained by pressure quaternization, which solution was then spray dried. Spray drying was carried out in a disk atomizer spray drying tower (NIRO, Minor-Production model) with maximum water evaporation of about 30 kg of water per hour, an air throughput of about 400 m3 /hr, an air inlet temperature of about 250° C., and a variable disk speed of up to about 20,000 rpm. At hot air inlet temperatures of 125°±25° C., trimethylammonium ethyl methacrylate chloride solution was fed at the rate of 20 kg/hr to the apertured disk rotating at about 15,000 rpm. The exit air temperature was 80°±10° C. Trimethylammonium ethyl methacrylate chloride with a residual moisture content of less than 1% was discharged from the cyclone following the spray dryer at the rate of about 15 kg/hr, representing a yield of approximately 95%. The spray dried product was free of polymers and proved highly suitable for the production of high molecular weight polymers to be used as flocculants. Thus, polymerization in a 75% aqueous solution yielded a high molecular weight product which, at a concentration of 1% in water, was found to have a viscosity of 7,000 mPa.sec and exhibited outstanding flocculating properties. In an analogous fashion, other quaternary ammonium salts of the formula given above can be produced, e.g. trimethylammonium propyl acrylate chloride or methosulfate or methacrylate chloride or methosulfate, 2-benzyldimethylammonium ethyl acrylate chloride or the corresponding methacrylic ester.

reactant | dimethylaminoethyl methacrylate | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | methyl chloride | CCl | CH3Cl
solvent | water | O | H2O
product | trimethylammonium ethyl methacrylate chloride | yield of approximately 95% | [Cl-].C(C)OC(C(=C)C)=O.C[NH+](C)C | InChI=1S/C6H10O2.C3H9N.ClH/c1-4-8-6(7)5(2)3;1-4(2)3;/h2,4H2,1,3H3;1-3H3;1H
